US08067621B2
Step 3: 3-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-propan-1-ol
1-(3-Benzyloxy-propyl)-4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene (399.1 mg, 0.728 mmol) was dissolved in 20 ml of ethyl acetate. Palladium hydroxide (20% on carbon, 105 mg) was added and the system was purged with hydrogen gas. The reaction was stirred at room temperature for 1.5 h. More palladium hydroxide on carbon was added (203 mg) The reaction was stirred at room temperature for 3.5 h. Palladium hydroxide (307 mg) was added again and stirred for 1 h. The reaction was filter through a celite cake and concentrated. The product was purified by column using Hex./EtOAc as the eluent (gradient from 100/0 to 50/50 in 35 minutes, then to 0/100). This resulted in three products the desired product and two dechloronation products.

reactant | 1-(3-Benzyloxy-propyl)-4a-(4-chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-1H-9-oxa-1-aza-phenanthrene | 0.728 mmol, 399.1 mg | C(C1=CC=CC=C1)OCCCN1CCCC2(C3=C(C=CC(=C3OCC12)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C28H28ClF2NO4S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | Palladium hydroxide | 105 mg | [OH-].[Pd+2].[OH-]
product | 3-[4a-(4-Chloro-benzenesulfonyl)-5,8-difluoro-2,3,4,4a,10,10a-hexahydro-9-oxa-1-aza-phenanthren-1-yl]-propan-1-ol | ClC1=CC=C(C=C1)S(=O)(=O)C12CCCN(C2COC2=C(C=CC(=C12)F)F)CCCO | C21H22ClF2NO4S
